US03991082
2,4-Dihydro-4-[([3-(1-piperidinyl)propyl]amino)methylene]-1-benzoxepin-3,5-dione hydrochloride
A mixture of 8.0g (0.03 mole) of 3-(bromoacetyl)chromone, 4.54g (0.032 mole) of piperidinopropylamine, 20g powdered potassium carbonate and 200ml of methylene chloride was stirred vigorously at room temperature for one hour. The red mixture was filtered, and the filtrate was washed well with water to remove the unreacted diamine. The organic phase was dried (K2CO3) and concentrated. The residue was taken-up into ether, and the solution was treated with excess hydrogen chloride to precipitate the crude hydrochloride salt. The ether was decanted, and the residue was dissolved in 100ml of warm 2-propanol. Upon addition of ether, crystals separated; wt. 3.8g (35%) of hygroscopic salt; m.p. 157°-159°. Recrystallization from ethanol-ether gave pure product; m.p. 158°-160°.

reactant | 3-(bromoacetyl)chromone | 0.03 mole, 8.0g | BrCC(=O)C1=COC2=CC=CC=C2C1=O | C11H7BrO3
reactant | piperidinopropylamine | 0.032 mole, 4.54g | N1(CCCCC1)CCCN | C8H18N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 200ml | C(Cl)Cl | CH2Cl2
product | 2,4-Dihydro-4-[([3-(1-piperidinyl)propyl]amino)methylene]-1-benzoxepin-3,5-dione hydrochloride | Cl.N1(CCCCC1)CCCNC=C1C(COC2=C(C1=O)C=CC=C2)=O | InChI=1S/C19H24N2O3.ClH/c22-17-14-24-18-8-3-2-7-15(18)19(23)16(17)13-20-9-6-12-21-10-4-1-5-11-21;/h2-3,7-8,13,20H,1,4-6,9-12,14H2;1H
